US04820705
6-(2-p-Methoxybenzenesulphonamido-indan-5-yl)-4,5-dihydro-pyridazin-3(2H)-one
5.0 g (12 mmol) of methyl 4-(2-p-methoxybenzenesulphonamido-indan-5-yl)-4-oxobutyrate and 3.0 g (60 mmol) of 99% hydrazine in 25 ml of glacial acetic acid are boiled for 30 minutes. The mixture is evaporated, water is added to the residue, and the reaction product is filtered off with suction and recrystallised from n-propanol.

reactant | methyl 4-(2-p-methoxybenzenesulphonamido-indan-5-yl)-4-oxobutyrate | 12 mmol, 5.0 g | COC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)OC)=O | C21H23NO6S
reactant | hydrazine | 60 mmol, 3.0 g | NN | H4N2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 6-(2-p-Methoxybenzenesulphonamido-indan-5-yl)-4,5-dihydro-pyridazin-3(2H)-one | COC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C20H21N3O4S
